US08193121B2
Step 3: Synthesis of methyl 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoate
5 ml of concentrated sulfuric acid were added to 20.0 g (78.7 mmol) of 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoic acid in 200 ml of methanol, and the mixture was heated under reflux until HPLC analysis showed complete conversion. The mixture was cooled and the solvent was removed. The residue was taken up in water, and the mixture was extracted twice with ethyl acetate. The combined organic phases were washed once with saturated aqueous NaHCO3 solution. Finally, the organic phase was dried and the filtrate was concentrated. This gave 20.5 g of methyl 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoate.

reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoic acid | 78.7 mmol, 20.0 g | FC1=C(C(=O)O)C=CC(=C1SC)C(F)(F)F | C9H6F4O2S
reactant | methanol | 200 ml | CO | CH4O
product | methyl 2-fluoro-3-methylthio-4-(trifluoromethyl)benzoate | FC1=C(C(=O)OC)C=CC(=C1SC)C(F)(F)F | C10H8F4O2S
